US07855202B2
6-(3-Fluoropyridin-4-yl)-2-(methylthio)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine
To a suspension of sodium hydride 60% (0.098 g, 2.45 mmols) in DMF (5 mL) a suspension of 6-(3-fluoropyridin-4-yl)-5-pyridin-3-yl-1,3-dihydro-2H-imidazo[4,5-b]pyridine-2-thione (0.6 g, 1.86 mmols) in DMF (15 mL) was added dropwise, at 0° C., under argon. The solution was allowed to stir for 30 minutes at 0° C. and then iodomethane (0.116 mL, 1.86 mmol) in DMF (1 mL) was added dropwise. The reaction mixture was warmed up to room temperature and stirred for 2.5 hours. The mixture was concentrated and purified by silica gel flash chromatography (150:40:5 dichloromethane/methanol/ammonia) to give the title compound (0.34 g, 54% of yield).

reactant | sodium hydride | 2.45 mmols, 0.098 g | [H-].[Na+]
reactant | 6-(3-fluoropyridin-4-yl)-5-pyridin-3-yl-1,3-dihydro-2H-imidazo[4,5-b]pyridine-2-thione | 1.86 mmols, 0.6 g | FC=1C=NC=CC1C=1C=C2C(=NC1C=1C=NC=CC1)NC(N2)=S | C16H10FN5S
reactant | iodomethane | 1.86 mmol, 0.116 mL | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-(3-Fluoropyridin-4-yl)-2-(methylthio)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine | 0.34 g, 54% | FC=1C=NC=CC1C=1C=C2C(=NC1C=1C=NC=CC1)NC(=N2)SC | C17H12FN5S
